* AD9618 SPICE Macro-model                   
* Description: Amplifier
* Generic Desc: IC OP AMP AD9618
* Developed by: CLD
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (12/1990)
* Copyright 1990, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: 
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |   negative supply
*                | | |   |   output
*                | | |   |   |
.SUBCKT AD9618   1 2 100 110 15 
* 1=VIN +, 2=VIN -, 100=VCC, 110=VEE, 15=VOUT
C1 12 5 .45E-12
C2 12 6 .45E-12
C3 12 2 0.2E-12
C5 5 0 1.25E-12
C6 6 0 1.25E-12
C7 12 0 1.25E-12
CINN 1 0 1.5E-12
CINI 2 0 1.5E-12
F1 100 13 VM1 1.2
F2 17 110 VM2 1.2
GM1 12 9 POLY(3) 0 5 0 6 5 6 1.6M,-4.0M,-4.0M
GM2 10 12 POLY(3) 0 6 0 5 6 5 1.6M,4.0M,4.0M
I1 100 3 DC 2.00M
I2 100 5 DC 3.00M
I3 4 110 DC 2.00M
I4 6 110 DC 3.29M
I5 100 12 5.0M
I6 12 110 5.0M
Q1 3 3 1 110 QNA 1.05
Q2 5 3 2 110 QNA 1.05
Q3 4 4 1 100 QPA 1.05
Q4 6 4 2 100 QPA 1.05
Q5 110 12 13 100 QPA .75
Q6A 100 13 14 110 QNB 1.05
Q6B 100 13 14 110 QNB 1.05
Q7 100 12 17 110 QNA .75
Q8A 110 17 16 100 QPB
Q8B 110 17 16 100 QPB
R1 12 0 20000
R2 14 15 6
R3 15 16 6
R4 100 5 120K
R5 5 0 14K
R6 6 110 450K
R7 6 0 4.5K
R8 7 20 280
VB1 5 7 DC 1.70
VB2 20 6 DC 1.70
VM1 100 10 DC 0
VM2 9 110 DC 0
*
.MODEL QNA NPN RB=75, IRB=0, RBM=7, RC=20, RE=0.7, IS=540E-18, 
+XTB=2.4, BF=380, IKF=15M, VAF=30, ISE=22E-16, 
+ISC=35E-21, TF=25E-12, CJE=16E-14, CJC=2.2E-13, XCJC=.2
+CJS=4E-13, MJS=0.3, VJE=1
*
.MODEL QNB NPN RB=24, IRB=0, RBM=2, RC=6, RE=0.5, IS=18E-16, 
+XTB=2, BF=380, IKF=49M, VAF=30, ISE=72E-16, 
+ISC=115E-21, TF=25E-12, CJE=54E-14, CJC=6E-13, XCJC=.2
+CJS=7E-13, MJS=0.3, VJE=1
*
.MODEL QPA PNP RB=83, IRB=0M, RBM=14, RC=18, RE=0.5, IS=26E-17, 
+XTB=2, BF=190, IKF=24M, VAF=15, ISE=7E-15, 
+ISC=30E-19, TF=35E-12, CJE=11E-14, CJC=3.1E-13, XCJC=.2
+CJS=9E-13, MJS=0.35, VJE=1
*
.MODEL QPB PNP RB=25, IRB=0, RBM=4, RC=5, RE=0.2, IS=88E-17,
+XTB=2, BF=190, IKF=84E-3, VAF=15, ISE=22.3E-15, 
+ISC=100E-19, TF=35E-12, CJE=36E-14, CJC=8.5E-13, XCJC=.2
+CJS=1.4E-12, MJS=0.35, VJE=1
* 
.ENDS AD9618   
*
*
**** MACRO18 TEST CIRCUIT **********************
*
*VCC 5 0 DC 5 AC 0
*VEE 6 0 DC -5 AC 0
*V3 2 7 DC 0
*RFB 4 2 1000
*RFF 1 2 110
*RL 4 0 100                                  
*
*X1 3 7 5 6 4 AD9618
* 3=VIN +, 7=VIN -, 5=VCC, 6=VEE, 4=VOUT
*
*V1 1 0 DC 0 AC 0 
*V2 3 0 DC 0 AC 1
*.AC DEC 101 10K 1G                         
*.PLOT AC VDB(4) IDB(V3) VP(4) IP(V3) I(V3)
*
*V2 3 0 DC 0 AC 1 PULSE -.1 .1 5N .4N .4N 30N 65N
*.TRAN .05N 65N
*.PLOT TRAN V(4) V(2)
*
*V2 3 0 DC 0 AC 1 0 SIN(0 0.1 20MEG 0 0)
*.TRAN .2N 65N
*.FOUR 20MEG V(4)
*.PLOT TRAN V(4)
*.END





